US04879038
Synthesis Example 19 (Synthesis of 3-(3-pyridyl)-acryloyl chloride hydrochloride)
67 ml of benzene was added to 10 grams of 3-(3-pyridyl)-acrylic acid. 8.1 ml of thionyl chloride was added dropwise slowly thereto at ambient temperature. The temperature was elevated to 70° C. and the heating was continued until foaming ceased. Benzene and thionyl chloride were distilled off and the residue was dried thoroughly under reduced pressure.

reactant | 3-(3-pyridyl)-acrylic acid | 10 grams | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | thionyl chloride | 8.1 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 67 ml | C1=CC=CC=C1 | C6H6
product | 3-(3-pyridyl)-acryloyl chloride hydrochloride | Cl.N1=CC(=CC=C1)C=CC(=O)Cl | InChI=1S/C8H6ClNO.ClH/c9-8(11)4-3-7-2-1-5-10-6-7;/h1-6H;1H
